US04840947
2,3-Dihydro-1H-quino[1,8-ab][1,5]benzodiazepine
To a stirred solution of 32.8 g of N-[2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]formamide in 500 ml of dry toluene was added 99.6 g of phosphorus oxychloride. The initial solution was heated under nitrogen for 5 hours at 75° and thereafter stirred at room temperature overnight. The solvent and excess phosphorus oxychloride were removed at aspirator pressure with mild heating. The residue was washed twice with ether and twice with hexane to remove traces of phosphorus oxychloride. The residue was triturated and heated with 25 ml of ethanol. The ethanol was removed on a rotary evaporator and the resulting material was treated with 1 liter of ethyl acetate and 50 ml of dilute sodium hydroxide solution. The two phases were stirred vigorously until the residue was dissolved (except for some interfacial material). The dark aqueous layer was separated and back-extracted with 250 ml of ethyl acetate. The combined organic extracts were filtered, washed four times with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to leave 25.2 g. A part of this material (20 g) was purified further by chromatography on 500 g of silica gel (column packed in dichloromethane) using dichloromethane as eluant. The appropriate fractions were combined and concentrated to afford 9.1 g of crystalline product. This material was recrystallized from a small volume of toluene to provide 4.9 g, m.p. 118°-120° C.

reactant | N-[2-(1,2,3,4-tetrahydro-1-quinolinyl)phenyl]formamide | 32.8 g | N1(CCCC2=CC=CC=C12)C1=C(C=CC=C1)NC=O | C16H16N2O
reactant | phosphorus oxychloride | 99.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-1H-quino[1,8-ab][1,5]benzodiazepine | 9.1 g | C1CCC2=CC=CC3=C2N1C1=C(N=C3)C=CC=C1 | C16H14N2
